US07981874B2
N-[2-Amino-5-(2-thienyl)phenyl]-6-(3-methyl-3-oxido-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undec-9-yl)nicotinamide.
tert-Butyl [2-{[(6-chloropyridin-3-yl)carbonyl]amino}-4-(2-thienyl)phenyl]-carbamate (150 mg, 0.35 mmol), 3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane 3-oxide hydrochloride (169 mg, 0.70 mmol), and DIEA (183 μL, 1.05 mmol) were combined in DMSO (4 mL) and stirred at 90° C. for 24 h. The mixture was directly purified by reverse phase HPLC (35-90% MeCN/water w/0.025% TFA) to afford the desired product as a yellow solid. The solid was dissolved in a mixture of CH2Cl2 (4 mL) and TFA (1 mL) and stirred at room temperature for 2 h. The solution was diluted with 1,2-DCE and evaporated. The resulting residue was purified by reverse phase HPLC (10-70% MeCN/water w/0.025% TFA). Fractions containing the product were diluted with saturated NaHCO3 and extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (MgSO4), and evaporated to give the desired product as a colorless solid. 1H NMR (DMSO-d6, 600 MHz) δ 9.48 (d, J=3.3, 1H), 8.72 (t, J=2.7 Hz, 1H), 8.08-8.05 (m, 1H), 7.43 (d, J=2.3 Hz, 1H), 7.33 (dd, J=4.9, 0.9 Hz, 1H), 7.26 (dt, J=8.4, 1.7 Hz, 1H), 7.22 (dd, J=3.6, 1.2 Hz, 1H), 7.02 (dd, J=5.0, 3.6 Hz, 1H), 6.78 (d, J=8.4 Hz, 1H), 6.51 (dd, J=8.9, 6.0 Hz, 1H), 5.10 (s, 2H), 4.15-3.97 (m, 3H), 3.93-3.82 (m, 1H), 3.62-3.50 (m, 3H), 3.36-3.28 (m, 1H), 2.06-1.98 (m, 1H), 1.93-1.80 (m, 3H), 1.50 (d, J=17.4 Hz, 1.5H), 1.49 (d, J=17.4 Hz, 1.5H). MS: cal'd 499 (MH+), exp 499 (MH+).

reactant | tert-Butyl [2-{[(6-chloropyridin-3-yl)carbonyl]amino}-4-(2-thienyl)phenyl]-carbamate | 0.35 mmol, 150 mg | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C21H20ClN3O3S
reactant | 3-methyl-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undecane 3-oxide hydrochloride | 0.70 mmol, 169 mg | Cl.CP1(OCC2(CO1)CCNCC2)=O
reactant | DIEA | 1.05 mmol, 183 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | N-[2-Amino-5-(2-thienyl)phenyl]-6-(3-methyl-3-oxido-2,4-dioxa-9-aza-3-phosphaspiro[5.5]undec-9-yl)nicotinamide | NC1=C(C=C(C=C1)C=1SC=CC1)NC(C1=CN=C(C=C1)N1CCC2(COP(OC2)(=O)C)CC1)=O | C24H27N4O4PS
